US06124347
Synthesis of 1-[3,5-dimethoxy-4-(methoxymethoxy)phenyl]-2-nitro-1-ethanol (Compound (3))
To a dissolved solution of sodium (2.54 g, 0.111 mol) in anhydrous methanol (70 ml) was added nitromethane (7.07 g, 0.116 mol) at room temperature. A solution of 3,5-dimethoxy-4-(methoxymethoxy)benzaldehyde (23.8 g, 0.1053 mol) in methanol (70 ml) was added dropwise, and the resulting mixture was stirred for 3 hours. After completion of a reaction, diethyl ether (500 ml) was added and precipitated crystals were collected by filtration. The crystals were suspended in diethyl ether (500 ml). At 0°C., acetic acid (6.4 g, 0.107 mol) was added, followed by stirring for 12 hours. After insoluble matter was filtered off, the filtrate was concentrated. The resulting crystals were washed with hexane, whereby the title compound (15.42 g) was obtained as pale yellow crystals. The filtered-off insoluble matter was dissolved in water, followed by extraction with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was removed, whereby the title compound (1.0 g) was obtained additionally.

reactant | sodium | 0.111 mol, 2.54 g | [Na] | Na
reactant | nitromethane | 0.116 mol, 7.07 g | [N+](=O)([O-])C | CH3NO2
reactant | 3,5-dimethoxy-4-(methoxymethoxy)benzaldehyde | 0.1053 mol, 23.8 g | COC=1C=C(C=O)C=C(C1OCOC)OC | C11H14O5
reactant | acetic acid | 0.107 mol, 6.4 g | C(C)(=O)O | C2H4O2
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 70 ml | CO | CH4O
solvent | water | O | H2O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 1-[3,5-dimethoxy-4-(methoxymethoxy)phenyl]-2-nitro-1-ethanol | 1.0 g | COC=1C=C(C=C(C1OCOC)OC)C(C[N+](=O)[O-])O | C12H17NO7
